2152-04-11 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   73 yo M with metastatic prostate cancer on clinical trial drug a past
   history of CAD, CHF EF 45%, anemia, presenting with fatigue and DOE x 1
   week, now with hypotension and
   hypoxia.
   24 Hour Events:
   - Lasix gtt decreased from 5mg/hr to 3mg/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-11**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 86 (78 - 92) bpm
   BP: 91/47(50) {83/38(50) - 110/53(68)} mmHg
   RR: 14 (10 - 15) insp/min
   SpO2: 96%
             Total In:
             20 mL
   PO:
             TF:
   IVF:
   20 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,750 mL
   Urine:
                                                                    750 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                 -1,730 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GENERAL: Pleasant, well appearing man, breathing comfortable on high
   flow mask
   HEENT: Normocephalic, atraumatic.  Mild conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. II/VI systolic
   crescendo decrescendo murmur at RUSB, low pitched systolic murmur at
   heart base. JVP= 10cm
   LUNGS: Bibasilar crackles [**1-15**] way up.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**1-14**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant,
   anxious.
   Labs / Radiology
   169 K/uL
   8.4 g/dL
   92 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.7 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   25.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2152-4-10**]  11:01 PM
                             [**2152-4-11**]  05:26 AM
   WBC
   6.7
   4.8
   Hct
   24.9
   25.5
   Plt
   185
   169
   Cr
   1.6
   1.5
   TropT
   0.04
   0.05
   Glucose
   121
   92
   Other labs: PT / PTT / INR:36.4/35.8/3.9, CK / CKMB /
   Troponin-T:186/4/0.05, Differential-Neuts:85.7 %, Band:0.0 %, Lymph:8.8
   %, Mono:4.9 %, Eos:0.4 %, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   73 yo M with metastatic prostate cancer on clinical trial drug a past
   history of CAD, CHF EF 45%, anemia, presenting with fatigue and DOE x 1
   week, now with hypoxia and resolved hypotension.
   .
   #. HYPOTENSION:  Resolved.  Patient
s SBP have ranged between 90-100s.
   Unclear etiology in patient with known CHF, 3 vessel CAD, metastatic
   cancer and known DVT/PE. Patient denies any fevers or chills, however
   infection remains in differential as this could be early sepsis.
   Suspect CHF vs early sepsis are most likely etiologies in this case.
   -- Blood cultures
   -- Urine cultures.
   -- Chest X-ray
   -- Would consider CTA chest to r/o new PE, although less likely in
   setting of therapeutic anticoagulation
   -- MAP > 55, if continues to be hypotensive will need CVL
   -- Would treat CHF with lasix gtt to avoid hypotension
   .
   #. HYPOXIA: Differential diagnosis in this gentleman includes CHF
   exacerbation, early sepsis, recurrent PE. Patient in randomized study
   including Taxotere which has reported cardiomyopathy as a toxicity;
   given underlying EF of 45% would also consider primary cardiac event,
   dietary indiscretion and exacerbation secondary to anemia. Patient
   received 1 unit of PRBC and > 1L IV fluids in ED, which is likely
   worsening his overload.
   -- CXR from earlier with volume overload, repeat now with
   decompensation.
   -- Currently stable on 65% high flow mask
   -- Diuresis as above
   -- If unable to maintain O2 sat > 92, consider BIPAP
   .
   #. INFERIOR ST CHANGES: Like in the setting of demand ischemia and
   known CAD. lack of bradycardia does not correlate well with active
   inferior iscemia, cardiac biomarkers minimally elevated
   -- Transfuse > 25
   -- Treat CHF exacerbation as above
   -- Continue aspirin, ACE for forward flow
   .
   #. METASTATIC PROSTATE CANCER: Currently on experimental therapy, no
   plans for inpatient treatment.
   .
   #. CHRONIC PAIN: Will continue opiated for bone mets with caution given
   recent hypotension
   .
   #. ANEMIA: Likely in setting of malignancy.  Patient received 1u PRBCs
   and HCT did not respond.
   -- Recheck Hct, goal > 25
   .
   #. DM 2: Insulin sliding scale while critically ill
   -- Hold oral agents
   .
   .
   FEN: NPO for now
   .
   PPX:
   -DVT ppx with P-boots
   -Bowel regimen
   -Pain management with Morphine, Oxycontin
   .
   ACCESS: PIV's
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: Wife, is HCP [**Telephone/Fax (1) 6661**]
   .
   DISPOSITION: ICU for now
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-4-11**] 12:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-04-11 10:42:00 Physician Attending Progress Note
Chief Complaint: Hypotension, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received laxis drip overnight, treating CHF, tolerating well.
   Dyspnea improved.
   No new complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-4-11**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.8
   HR: 85 (78 - 92) bpm
   BP: 87/52(61) {83/38(50) - 110/53(68)} mmHg
   RR: 23 (10 - 23) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
             149 mL
   PO:
             120 mL
   TF:
   IVF:
   29 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  2,555 mL
   Urine:
                                                                    750 mL
                                                                  2,555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                 -2,406 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   169 K/uL
   92 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.7 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   25.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2152-4-10**]  11:01 PM
                             [**2152-4-11**]  05:26 AM
   WBC
   6.7
   4.8
   Hct
   24.9
   25.5
   Plt
   185
   169
   Cr
   1.6
   1.5
   TropT
   0.04
   0.05
   Glucose
   121
   92
   Other labs: PT / PTT / INR:36.4/35.8/3.9, CK / CKMB /
   Troponin-T:186/4/0.05, Differential-Neuts:85.7 %, Band:0.0 %, Lymph:8.8
   %, Mono:4.9 %, Eos:0.4 %, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   73 yom  metastatic prostate cancer now with hypotension and hypoxia,
   probable related to pulmonary edema (perhaps non-cardiogenic)
   HYPOTENSION: Unclear etiology in patient with known CHF, 3 vessel CAD,
   and known DVT/PE.  Suspect CHF, but could be early sepsis.  Continue
   net direusis.  Await Blood cultures,  Urine cultures, f/u CXR.   MAP >
   55.
   -- Would treat CHF with lasix gtt to avoid hypotension, goal (-) 1 to
   1.5 liters
   .
   HYPOXIA: Differential diagnosis in this gentleman includes CHF
   exacerbation, early sepsis, recurrent PE. Patient in randomized study
   including Taxotere which has reported cardiomyopathy as a toxicity;
   given underlying EF of 45% would also consider primary cardiac event,
   dietary indiscretion and exacerbation secondary to anemia. Patient
   received 1 unit of PRBC and > 1L IV fluids in ED, which is likely
   worsening his overload.
   -- CXR from earlier with volume overload, repeat now with
   decompensation.
   -- Currently stable on 65% high flow mask
   -- Diuresis as above
   -- If unable to maintain O2 sat > 92, consider BIPAP
   -- Would treat CHF with lasix gtt to avoid hypotension, goal (-) 1 to
   1.5 liters
   .
   INFERIOR ST CHANGES: Like in the setting of demand ischemia and known
   CAD. lack of bradycardia does not correlate well with active inferior
   iscemia, cardiac biomarkers minimally elevated
   -- Transfuse > 25
   -- Treat CHF exacerbation as above
   -- Continue aspirin, ACE for forward flow
   .
    METASTATIC PROSTATE CANCER: Currently on experimental therapy, no
   plans for inpatient treatment.
   .
   #. CHRONIC PAIN: Will continue opiated for bone mets with caution given
   recent hypotension
   .
   #. ANEMIA: Likely in setting of malignancy
   -- Hct goal > 25
   .
   #. DM 2: Insulin sliding scale while critically ill
   -- Hold oral agents
   .
   .
   FEN: NPO for now
   .
   PPX:
   -DVT ppx with SQ Heparin
   -Bowel regimen
   -Pain management with Morphine, Oxycontin
   .
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE (CHF), DIASTOLIC, ACUTE
 CANCER (MALIGNANT NEOPLASM), PROSTATE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-4-11**] 12:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2152-04-12 12:24:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Overall, improved symptomatically.
   Remains on  6L NP.
   Tolerating net diuresis.
   Experienced hypotension last PM, responded to iv fluid bolus.
   Klonopin for anxiety.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-12**] 08:00 AM
   Morphine Sulfate - [**2152-4-12**] 11:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2152-4-12**] 12:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.3
   HR: 77 (71 - 93) bpm
   BP: 98/45(58) {79/20(40) - 114/55(66)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: 1st AV (First degree AV Block)
             Total In:
                                                                    811 mL
                                                                  1,360 mL
   PO:
                                                                    780 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     31 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  4,095 mL
                                                                    780 mL
   Urine:
                                                                  4,095 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,284 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Bibasliar 1/2 up lung field,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.1 g/dL
   177 K/uL
   103 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.7 mEq/L
   28 mg/dL
   106 mEq/L
   138 mEq/L
   24.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2152-4-10**]  11:01 PM
                             [**2152-4-11**]  05:26 AM
                             [**2152-4-11**]  03:09 PM
                             [**2152-4-12**]  03:56 AM
   WBC
   6.7
   4.8
   2.7
   Hct
   24.9
   25.5
   26.6
   24.0
   Plt
   185
   169
   177
   Cr
   1.6
   1.5
   1.1
   TropT
   0.04
   0.05
   Glucose
   121
   92
   103
   Other labs: PT / PTT / INR:40.4/41.1/4.4, CK / CKMB /
   Troponin-T:186/4/0.05, Differential-Neuts:85.7 %, Band:0.0 %, Lymph:8.8
   %, Mono:4.9 %, Eos:0.4 %, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   73 yom  metastatic prostate cancer now with hypotension and hypoxia,
   pulmonary edema (perhaps non-cardiogenic)
   HYPOTENSION -- Recurrent; possibly related to net diuresis.  Underlying
   cardiomyopathy.
   PULMONARY EDEMA -- Continue net direusis with lasix gtt  goal (-) 1 to
   1.5 liters
   HYPOXIA
 likely pulmonary edema, suspect CHF exacerbation,
   precipitated by study drug effect (Taxotere reported cardiomyopathy as
   a toxicity).  Plan diuresis as above, goal (-) 1 to 1.5 liters
   ECG ABNORMALITIES -- inferior ST changes, but cardiac biomarkers
   minimally elevated.  No evidence for acute MI, but concern for
   ischemia.  Plan transfuse > 27, Rx CHF, continue ASA ACE
   METASTATIC PROSTATE CANCER -- Currently on experimental therapy, no
   plans for inpatient treatment.  Hold study drugs.
   ELEVATED INR -- off coumadin; possible drug-drug interactions, low flow
   state (CFH);  check LFTs.  HOld coumadin.  Consider reversal if
   continues to rise.
   CHRONIC PAIN -- Continue opiates for bone mets with caution given
   recent hypotension
   ANEMIA: Likely in setting of malignancy.  Hct goal > 27
   NIDDM -- Insulin sliding scale while critically ill
   FEN --  Resume PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-4-11**] 12:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2152-04-12 17:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   D/c
d lasix drip as was 3.4L negative and hypotension so received 1L
   bolus
   HCT stable
   CXR persistent densities
   Advanced diet
   Echo same w/ mild regional L vent systolic dysfunction c/w CAD, Mild
   AI, MR, moderate pulmonary HTN
   Telemetry 1^st degree AV block, no alarms
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-12**] 08:00 AM
   Morphine Sulfate - [**2152-4-12**] 11:22 AM
   Furosemide (Lasix) - [**2152-4-12**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Feeling anxious.
   Flowsheet Data as of  [**2152-4-12**] 04:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.6
C (96
   HR: 74 (71 - 91) bpm
   BP: 92/43(56) {79/39(50) - 109/55(66)} mmHg
   RR: 12 (12 - 26) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
           Total In:
                                                                    811 mL
                                                                  1,624 mL
   PO:
                                                                    780 mL
                                                                    360 mL
   TF:
   IVF:
                                                                     31 mL
                                                                  1,000 mL
   Blood products:
   264 mL
   Total out:
                                                                  4,095 mL
                                                                  1,040 mL
   Urine:
                                                                  4,095 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,284 mL
                                                                    584 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   8.1 g/dL
   103 mg/dL
   1.1 mg/dL
   26 mEq/L
   4.7 mEq/L
   28 mg/dL
   106 mEq/L
   138 mEq/L
   24.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2152-4-10**]  11:01 PM
                             [**2152-4-11**]  05:26 AM
                             [**2152-4-11**]  03:09 PM
                             [**2152-4-12**]  03:56 AM
   WBC
   6.7
   4.8
   2.7
   Hct
   24.9
   25.5
   26.6
   24.0
   Plt
   185
   169
   177
   Cr
   1.6
   1.5
   1.1
   TropT
   0.04
   0.05
   Glucose
   121
   92
   103
   Other labs: PT / PTT / INR:40.4/41.1/4.4, CK / CKMB /
   Troponin-T:186/4/0.05, ALT / AST:[**8-28**], Alk Phos / T Bili:59/0.5,
   Differential-Neuts:67.6 %, Band:0.0 %, Lymph:22.7 %, Mono:7.4 %,
   Eos:1.9 %, Albumin:3.1 g/dL, LDH:319 IU/L, Ca++:8.1 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   73 yo M w/ PMH of metastatic prostate CA p/w acute pulmonary  edema
   #1 Acute pulmonary edema: Pt. diuresing well now 5L negative for LOS.
   O2 requirement improving. BP has been remaining stable. Cardiac enzymes
   negative x4 so unlikley ischemic event. No Hx of CHF so possibly fluid
   overload from prednisone given normal echo.
   - Repeat CXR
   - Wean O2 as tolerated
   - Monitor I/O w/ goal negative 500cc
   - Continue ASA, statin
   #2 Hypotension: Resolved w/ fluid bolus, likely [**2-14**] overaggressive
   diuresis. Does not appear septic.
   - gentle diuresis
   - F/u blood urine cultures
   #3 Metastatic prostate CA: Per oncologist will stop study drug and
   taper prednisone.
   - Taper prednisone to 7.5mg QD
   #4Chronic pain: controlled on home regimen w/ some PRNs
   - continue current standing oxycodone plus PRN morphine
   #5 Anemia: Hct trending down slowly.
   - Transfuse one unit w/ goal Hct >25, tx w/ lasix
   #6 DMII: finger sticks have been well controlled on sliding scale,
   given decreasing steroid dose would not add standing insulin now.
   - SSI
   #7 Elevated INR: Has been off of warfarin at least two days, but
   warfarin can have delayed effect. Has not been getting any Abx. LFTs
   otherwise normal.
   - Trend INR
   PPx: INR remains elevated anticoagulated, bowel regimen
   Access: PIV
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-4-11**] 12:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-04-13 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   73 yo M with metastatic prostate cancer on clinical trial drug a past
   history of CAD, CHF EF 45%, anemia, presenting with fatigue and DOE x 1
   week, now with hypotension and hypoxia.
   24 Hour Events:
   Transfused one unit
   Diuresed negative 621cc
   LFTs were normal (INR still elevated off coumadin)
   Needs noncon CT chest when he is transferred back to floor.
   Weaned O2 to 4L NC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-4-12**] 08:00 AM
   Morphine Sulfate - [**2152-4-12**] 11:22 AM
   Furosemide (Lasix) - [**2152-4-12**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-4-13**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.3
   HR: 77 (72 - 79) bpm
   BP: 90/36(51) {83/36(48) - 107/53(64)} mmHg
   RR: 15 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                  1,639 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  2,260 mL
                                                                    340 mL
   Urine:
                                                                  2,260 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -621 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   8.7 g/dL
   88 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   26.1 %
   1.9 K/uL
        [image002.jpg]
                             [**2152-4-10**]  11:01 PM
                             [**2152-4-11**]  05:26 AM
                             [**2152-4-11**]  03:09 PM
                             [**2152-4-12**]  03:56 AM
                             [**2152-4-13**]  04:00 AM
   WBC
   6.7
   4.8
   2.7
   1.9
   Hct
   24.9
   25.5
   26.6
   24.0
   26.1
   Plt
   185
   169
   177
   193
   Cr
   1.6
   1.5
   1.1
   1.1
   TropT
   0.04
   0.05
   Glucose
   121
   92
   103
   88
   Other labs: PT / PTT / INR:29.5/38.4/3.0, CK / CKMB /
   Troponin-T:186/4/0.05, ALT / AST:[**10-27**], Alk Phos / T Bili:63/0.7,
   Differential-Neuts:67.6 %, Band:0.0 %, Lymph:22.7 %, Mono:7.4 %,
   Eos:1.9 %, Albumin:3.2 g/dL, LDH:320 IU/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   73 yo M w/ PMH of metastatic prostate CA p/w acute pulmonary  edema
   #1 Acute pulmonary edema: Pt. diuresing well now 5L negative for LOS.
   O2 requirement improving. BP has been remaining stable. Cardiac enzymes
   negative x4 so unlikley ischemic event. No Hx of CHF so possibly fluid
   overload from prednisone given normal echo.
   - Repeat CXR
   - Wean O2 as tolerated
   - Monitor I/O w/ goal negative 500cc
   - Continue ASA, statin
   #2 Hypotension: Resolved w/ fluid bolus, likely [**2-14**] overaggressive
   diuresis. Does not appear septic.
   - gentle diuresis
   - F/u blood urine cultures
   #3 Metastatic prostate CA: Per oncologist will stop study drug and
   taper prednisone.
   - Taper prednisone to 7.5mg QD
   #4Chronic pain: controlled on home regimen w/ some PRNs
   - continue current standing oxycodone plus PRN morphine
   #5 Anemia: Hct trending down slowly.
   - Transfuse one unit w/ goal Hct >25, tx w/ lasix
   #6 DMII: finger sticks have been well controlled on sliding scale,
   given decreasing steroid dose would not add standing insulin now.
   - SSI
   #7 Elevated INR: Has been off of warfarin at least two days, but
   warfarin can have delayed effect. Has not been getting any Abx. LFTs
   otherwise normal.
   - Trend INR
   PPx: INR remains elevated anticoagulated, bowel regimen
   Access: PIV
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2152-4-11**] 12:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2152-04-13 12:25:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI: 73M w/ hx of CABG, DVT on couamdin, metastatic prostate cancer
   presents with CHF flare likely due to his experimental chemo drugs.
   24 Hour Events: Transfused one unit PRBCs. Diuresed and O2 weaned to
   4L. Overall did very well last night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2152-4-12**] 03:30 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Otherwise negative
   Flowsheet Data as of  [**2152-4-13**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 76 (72 - 81) bpm
   BP: 97/49(61) {80/36(48) - 105/51(61)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 94%
   Heart rhythm: 1st AV (First degree AV Block)
                  Total In:
                                                                  1,639 mL
                                                                    480 mL
   PO:
                                                                    360 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,000 mL
   Blood products:
                                                                    279 mL
   Total out:
                                                                  2,260 mL
                                                                    560 mL
   Urine:
                                                                  2,260 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -621 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   Heent: No JVD
   Cardiac: normal S1 and S2 no M,R,G
   Lungs: crackles at bases
   Abdomen:benign
   Extremities: no edema
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Skin:  WNL
   Neurologic: Responds to: Vocal stimulation, Movement: WNL, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   193 K/uL
   88 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.3 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   26.1 %
   1.9 K/uL
        [image002.jpg]
                             [**2152-4-10**]  11:01 PM
                             [**2152-4-11**]  05:26 AM
                             [**2152-4-11**]  03:09 PM
                             [**2152-4-12**]  03:56 AM
                             [**2152-4-13**]  04:00 AM
   WBC
   6.7
   4.8
   2.7
   1.9
   Hct
   24.9
   25.5
   26.6
   24.0
   26.1
   Plt
   185
   169
   177
   193
   Cr
   1.6
   1.5
   1.1
   1.1
   TropT
   0.04
   0.05
   Glucose
   121
   92
   103
   88
   Other labs: PT / PTT / INR:29.5/38.4/3.0, CK / CKMB /
   Troponin-T:186/4/0.05, ALT / AST:[**10-27**], Alk Phos / T Bili:63/0.7,
   Differential-Neuts:67.6 %, Band:0.0 %, Lymph:22.7 %, Mono:7.4 %,
   Eos:1.9 %, Albumin:3.2 g/dL, LDH:320 IU/L, Ca++:8.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   73 yom  metastatic prostate cancer now with pulmonary edema.
   HYPOTENSION -- Recurrent; possibly related to net diuresis.  Underlying
   cardiomyopathy.   Improved.
   PULMONARY EDEMA -- Continue net direusis with lasix gtt  goal (-) 1 to
   1.5 liters.  Improved.  Continue net diuresis with iv lasix.
   HYPOXIA
 likely pulmonary edema, suspect CHF exacerbation,
   precipitated by study drug effect (Taxotere reported cardiomyopathy as
   a toxicity).  Plan diuresis as above, goal (-) 1 to 1.5 liters
   ECG ABNORMALITIES -- inferior ST changes, but cardiac biomarkers
   minimally elevated.  No evidence for acute MI, but concern for
   ischemia.  Plan transfuse > 27, Rx CHF, continue ASA ACE
   METASTATIC PROSTATE CANCER -- Hold on experimental therapy.
   ELEVATED INR -- off coumadin; possible drug-drug interactions, low flow
   state (CFH);  check LFTs.  HOld coumadin.  Consider reversal if
   continues to rise.
   CHRONIC PAIN -- Continue opiates for bone mets with caution given
   recent hypotension
   ANEMIA: Likely in setting of malignancy.  Hct goal > 27
   NIDDM -- Insulin sliding scale.
   FEN --  Resume PO.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines: PIVs
   18 Gauge - [**2152-4-11**] 12:21 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient and family  Comments:
   Code status: Full code
   Disposition : transfer to OMED team
   Total time spent: 35 minutes